US07473694B2
Synthesis of tert-butyl {6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}[4-(2-methoxyethoxy)phenyl]carbamate
To a 1,4-dioxane (7.0 mL) solution containing {6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}[4-(2-methoxyethoxy)phenyl]amine (570 mg, 1.20 mmol), di-tert-butyl dicarbonate (515 μL, 2.24 mmol) and N,N-dimethylaminopyridine (35.2 mg, 0.29 mmol) were added, and this mixture was stirred with heating at 40° C. After the reaction, the solvent was concentrated, sodium hydrogen carbonate was added here, and the mixture was extracted with methylene chloride. The combined methylene chloride layer was washed with brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the filtrate was concentrated to obtain the residue, which was used for the subsequent reaction without purification.

reactant | {6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}[4-(2-methoxyethoxy)phenyl]amine | 1.20 mmol, 570 mg | [Si](C)(C)(C(C)(C)C)OCCC=1C(=NC=2N(C1NC1=CC=C(C=C1)OCCOC)N=CC2)Cl | C23H33ClN4O3Si
reactant | di-tert-butyl dicarbonate | 2.24 mmol, 515 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 7.0 mL | O1CCOCC1 | C4H8O2
product | tert-butyl {6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}[4-(2-methoxyethoxy)phenyl]carbamate | [Si](C)(C)(C(C)(C)C)OCCC=1C(=NC=2N(C1N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCCOC)N=CC2)Cl | C28H41ClN4O5Si
